US04046889
1-(3-Acetylthio-2-benzylpropanoyl)-L-proline is treated with methanolic ammonia according to the procedure of Example 34 to obtain 1-(3-mercapto-2-benzylpropanoyl)-L-proline.

reactant | 1-(3-Acetylthio-2-benzylpropanoyl)-L-proline | C(C)(=O)SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1 | C17H21NO4S
reactant | ammonia | N | H3N
product | 1-(3-mercapto-2-benzylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)CC1=CC=CC=C1 | C15H19NO3S
